US07642270B2
8-indan-5-yl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid methylamide (Cpd 8)
To a solution of 8-indan-5-yl-2-[4-(4-methyl-piperazine-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester Cpd 1 (Example 1(g), 5 mg) in 1 mL of methanol was added 1 mL of methylamine (40 wt. % in water). The solution was stirred at 70° C. for 30 minutes. The solvent was evaporated and the product was purified by preparative HPLC. 1.7 mg of 8-indan-5-yl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid methylamide

reactant | 8-indan-5-yl-2-[4-(4-methyl-piperazine-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NC2=CC=C(C=C2)N2CCN(CC2)C)N(C1)C=1C=C2CCCC2=CC1)=O | C30H32N6O3
reactant | methylamine | 1 mL | CN | CH5N
solvent | methanol | 1 mL | CO | CH4O
product | 8-indan-5-yl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid methylamide | CNC(=O)C=1C(C2=C(N=C(N=C2)NC2=CC=C(C=C2)N2CCN(CC2)C)N(C1)C=1C=C2CCCC2=CC1)=O | C29H31N7O2
